US03966780
Utilizing the procedure of Example 15, 11-methoxy-2,7,11-trimethyl-2,4-dodecadienoic acid and propargyl bromide are reacted. After chromatography on Kieselgel, using diethyl ether/petroleum ether (1:3 parts by volume) as the eluant, there is obtained 11-methoxy-2,7,11-trimethyl-2,4-dodecadienoic acid propargyl ester in pure form; boiling point 110°C/0.002 mmHg.

reactant | 11-methoxy-2,7,11-trimethyl-2,4-dodecadienoic acid | COC(CCCC(CC=CC=C(C(=O)O)C)C)(C)C | C16H28O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 11-methoxy-2,7,11-trimethyl-2,4-dodecadienoic acid propargyl ester | C(C#C)OC(C(=CC=CCC(CCCC(C)(C)OC)C)C)=O | C19H30O3
